US07553833B2
House vacuum was applied to a mixture of 4-methoxy-3-buten-2-one (14.0 g, 140 mmol) (Fisher Scientific), neopentyl alcohol (18.0 g. 200 mmol), pyrimidium p-toluenesulfonate (0.45 g, 1 mmol) and toluene (50 mL). This was stirred at 25-30° C. for 14 h. All solvent and volatiles were removed by vacuum and the residue was dissolved in hexane (75 mL). This was purified by chromatography (30% ethyl acetate/hexane) to give (E)-4-(2,2-dimethylpropoxy)but-3-en-2-one.

reactant | 4-methoxy-3-buten-2-one | 140 mmol, 14.0 g | COC=CC(C)=O | C5H8O2
reactant | neopentyl alcohol | 200 mmol, 18.0 g | C(C(C)(C)C)O | C5H12O
reactant | p-toluenesulfonate | 1 mmol, 0.45 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-4-(2,2-dimethylpropoxy)but-3-en-2-one | CC(CO/C=C/C(C)=O)(C)C | C9H16O2
